US07015218B1
1-(4-Chlorophenyl)-N-{3-cyano-4-[4-(3,4,5,6-tetrahydro-2H-thiopyran-4-yl)piperazin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid (1.3 g) and 5-amino-2-[4-(3,4,5,6-tetrahydro-2H-thiopyran-4-yl) piperazin-1-yl]benzonitrile (1.1 g), the title compound (1.1 g) was obtained, melting point: 281° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid | 1.3 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9ClN2O2
reactant | 5-amino-2-[4-(3,4,5,6-tetrahydro-2H-thiopyran-4-yl) piperazin-1-yl]benzonitrile | 1.1 g | NC=1C=CC(=C(C#N)C1)N1CCN(CC1)C1CCSCC1 | C16H22N4S
product | 1-(4-Chlorophenyl)-N-{3-cyano-4-[4-(3,4,5,6-tetrahydro-2H-thiopyran-4-yl)piperazin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide | 1.1 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCN(CC1)C1CCSCC1)C#N | C27H29ClN6OS
